US07872031B2
3-(1-(2,3-Difluorophenyl)-1H-tetrazol-5-yl)-5-((E)-2,5,6,7-tetrahydro-1H-azepin-4-yl)pyridin-2-amine (37 mg, 100 μmol, 1 eq.) was diluted in DCM (1.5 mL). EDC (34.4 mg, 150 μmol, 1.5 eq.), trifluoroacetic acid (17.1 mg, 150 μmol, 1 eq.), and DIEA (53 μL, 300 μmol, 3 eq.) were added. The reaction was stirred at room temperature overnight then concentrated. The product was purified by reversed-phase HPLC purification to give 1-((E)-5-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-3,4-dihydro-2H-azepin-1(7H)-yl)-2,2,2-trifluoroethanone (13.6 mg, 30% yield); 1H NMR (300 MHz, DMSO-d6): 8.25 (m, 1H); 7.87 (m, 1H); 7.77 (m, 1H); 7.55 (m, 1H); 7.37 (m, 1H); 5.95-5.7 (m, 1H); 4.12 (m, 2H); 3.75-3.6 (m, 2H); 2.4 (m, 2H); 1.75 (m, 2H).

reactant | 3-(1-(2,3-Difluorophenyl)-1H-tetrazol-5-yl)-5-((E)-2,5,6,7-tetrahydro-1H-azepin-4-yl)pyridin-2-amine | 100 μmol, 37 mg, 1 eq. | FC1=C(C=CC=C1F)N1N=NN=C1C=1C(=NC=C(C1)/C/1=C/CNCCC1)N | C18H17F2N7
reactant | EDC | 150 μmol, 34.4 mg, 1.5 eq.
reactant | trifluoroacetic acid | 150 μmol, 17.1 mg, 1 eq. | FC(C(=O)O)(F)F | C2HF3O2
reactant | DIEA | 300 μmol, 53 μL, 3 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 1-((E)-5-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-3,4-dihydro-2H-azepin-1(7H)-yl)-2,2,2-trifluoroethanone | 13.6 mg, 30% yield | NC1=C(C=C(C=N1)\C=1\CCCN(C/C1)C(C(F)(F)F)=O)C1=NN=NN1C1=C(C(=CC=C1)F)F | C20H16F5N7O
